US08097759B2
5-Chloro-N-[4-fluoro-3-(trifluoromethyl)phenyl]-2-hydroxybenzamide (Compound No. 108)
Using 5-chlorosalicylic acid and 4-fluoro-3-(trifluoromethyl)aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 4-fluoro-3-(trifluoromethyl)aniline | FC1=C(C=C(N)C=C1)C(F)(F)F | C7H5F4N
product | 5-Chloro-N-[4-fluoro-3-(trifluoromethyl)phenyl]-2-hydroxybenzamide | Yield: 72.1% | ClC=1C=CC(=C(C(=O)NC2=CC(=C(C=C2)F)C(F)(F)F)C1)O | C14H8ClF4NO2
